US04906281
To a stirred, cold (-5° C.) solution of 8.56 g (0.0400 mole) of perhydropyridazine hydroiodide in 150 mL of methylene chloride was added dropwise 12.2 g (0.120 mole) of triethylamine. This mixture was stirred for approximately 30 minutes. A solution of 8.0 g (0.034 mole) of 4-chloro-2-fluoro-5-nitrophenylisothiocyanate in methylene chloride was added dropwise to the reaction mixture while maintaining a reaction temperature of -20° C. After complete addition, the reaction mixture was allowed to warm to room temperature and was stirred for two days. The solvent was removed from the mixture by evaporation under reduced pressure leaving a residue. The residue was subjected to column chromatography on silica gel, eluting with ethyl acetate:n-heptane (50:50), to yield 10.4 g of N-[(4-chloro-2-fluoro-5-nitrophenyl)aminothiocarbonyl]perhydropyridazine as a solid, mp 118°-120° C.

reactant | perhydropyridazine hydroiodide | 0.0400 mole, 8.56 g | I.N1NCCCC1
reactant | triethylamine | 0.120 mole, 12.2 g | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-fluoro-5-nitrophenylisothiocyanate | 0.034 mole, 8.0 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N=C=S)F | C7H2ClFN2O2S
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-chloro-2-fluoro-5-nitrophenyl)aminothiocarbonyl]perhydropyridazine | 10.4 g | ClC1=CC(=C(C=C1[N+](=O)[O-])NC(=S)N1NCCCC1)F | C11H12ClFN4O2S
